US06589978B2
(2RS,5RS)-N-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-methanesulfonamide
Reaction of (2RS,5RS)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propylamine with methanesulfonyl chloride according to the general method of example Id yielded the title compound as a white solid, m.p. =123° C. and MS: m/e=455.3 (M+H+).

reactant | (2RS,5RS)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propylamine | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)NCCC | C20H25FN2O2S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (2RS,5RS)-N-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-methanesulfonamide | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCNS(=O)(=O)C | C21H27FN2O4S2
